US07157579B2
A mixture of one equivalent of 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-3-(methylsulfonyl)-3,4-dihydro-1H-pyridin-2-one, 0.1 equivalent of p-toluenesulsonic acid and toluene is refluxed under stirring. After the reaction, the reaction liquid is concentrated and the residue is subjected to silica gel column chromatography to give 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-1H-pyridin-2-one.

reactant | 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-3-(methylsulfonyl)-3,4-dihydro-1H-pyridin-2-one | one equivalent | ClC1=C(OC2(C(NC=CC2)=O)S(=O)(=O)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C18H14ClF4N3O6S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-1H-pyridin-2-one | ClC1=C(OC=2C(NC=CC2)=O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H10ClF4N3O4
